US07667041B2
Synthesis of [(3S)-1-(3,4-difluorobenzyl)pyrrolidine-3-yl]amine dihydrochloride
To an ethyl acetate solution (5 mL) of (3S)-(1-(3,4-difluorobenzyl)pyrrolidin-3-yl)carbamic acid tert-butyl ester (1.55 g), an ethyl acetate (5 mL) solution of 4N hydrochloric acid was added, and the reaction solution was agitated at room temperature. Deposited substances in the reaction solution was separated by filtering after 10 hours, and 904 mg of the title compound was obtained by further washing with ether. The physical properties of the compound are as follows.

reactant | (3S)-(1-(3,4-difluorobenzyl)pyrrolidin-3-yl)carbamic acid tert-butyl ester | 1.55 g | C(C)(C)(C)OC(N[C@@H]1CN(CC1)CC1=CC(=C(C=C1)F)F)=O | C16H22F2N2O2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | [(3S)-1-(3,4-difluorobenzyl)pyrrolidine-3-yl]amine dihydrochloride | 904 mg | Cl.Cl.FC=1C=C(CN2C[C@H](CC2)N)C=CC1F | InChI=1S/C11H14F2N2.2ClH/c12-10-2-1-8(5-11(10)13)6-15-4-3-9(14)7-15;;/h1-2,5,9H,3-4,6-7,14H2;2*1H/t9-;;/m0../s1
